US07115620B2
Ethyl chlorooxoacetate (1.15 mL, 10.29 mmol) was added dropwise to a stirring solution of 1-(4-cyanophenyl)-3-(tert-butyl)-thiourea (0.802 g, 3.25 mmol) in dichloromethane (40 mL) and the resulting mixture was stirred at room temperature overnight. The mixture was concentrated to afford a residue which was purified by flash column chromatography (50% ethyl acetate/hexanes) to afford 0.48 g (32%) of 4-[3-(tert-butyl)-4,5-dioxo-2-thioxo-imidazolidin-1-yl]-benzonitrile as a yellow solid: mp 200.4–201.3° C.; 1H NMR (DMSO-d6): δ 8.00 (d, 2H), 7.52 (d, 2H), 2.20 (q, 2H), 1.79 (s, 9H); IR (KBr) 3500, 2220, 1760 cm−1; MS (m/z) 287 (M+).

reactant | Ethyl chlorooxoacetate | 10.29 mmol, 1.15 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 1-(4-cyanophenyl)-3-(tert-butyl)-thiourea | 3.25 mmol, 0.802 g | C(#N)C1=CC=C(C=C1)NC(=S)NC(C)(C)C | C12H15N3S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-[3-(tert-butyl)-4,5-dioxo-2-thioxo-imidazolidin-1-yl]-benzonitrile | 0.48 g, 32% | C(C)(C)(C)N1C(N(C(C1=O)=O)C1=CC=C(C#N)C=C1)=S | C14H13N3O2S
